US06458781B1
Preparation of (S)-2-(Cyclohexyl-methyl-amino)-4-methyl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride
(S)-2-(Cyclohexyl-methyl-amino)-4-methyl-pentanoic acid (0.300 g, 1.32 mmol) was dissolved in dry DMF (4 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this solution were added, in succession, N,N-diisopropylethylamine (0.690 mL, 3.96 mmol) and solid O-benzotriazol-1-yl-N,N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.501 g, 1.32 mmol). The resulting reaction mixture was stirred at that temperature for 40 minutes; solid 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (0.393 g, 1.32 mmol) was then added. After stirring for, sequentially, 15 minutes at 0° C. and 30 minutes at ambient temperature, reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×60 mL), brine (2×60 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording an oil. The crude product was further purified by flash chromatography (50% EtOAc in hexane) and treated with ethereal HCl. Subsequent concentration in vacuo and drying under vacuum provided 0.51 g (75%) of the pure titled compound as a white foam; mp 73-83° C. APCI-MS m/z 471.4 (MH+).

reactant | (S)-2-(Cyclohexyl-methyl-amino)-4-methyl-pentanoic acid | 1.32 mmol, 0.300 g | C1(CCCCC1)N([C@H](C(=O)O)CC(C)C)C | C13H25NO2
reactant | N,N-diisopropylethylamine | 3.96 mmol, 0.690 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 1.32 mmol, 0.393 g | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
reactant | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-2-(Cyclohexyl-methyl-amino)-4-methyl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride | 0.51 g, 75% | Cl.FC1=CC=C(C=C1)C(CCCNC([C@H](CC(C)C)N(C)C1CCCCC1)=O)C1=CC=C(C=C1)F | InChI=1S/C29H40F2N2O.ClH/c1-21(2)20-28(33(3)26-8-5-4-6-9-26)29(34)32-19-7-10-27(22-11-15-24(30)16-12-22)23-13-17-25(31)18-14-23;/h11-18,21,26-28H,4-10,19-20H2,1-3H3,(H,32,34);1H/t28-;/m0./s1
